US07148226B2
[2-(3-Bromo-phenyl)-2-methyl-propyl]-carbamic acid tert-butyl ester
2-(3-Bromo-phenyl)-2-methyl-propionitrile was added to a solution of Lithium aluminum hydride (1M in THF, 37.4 ml, 37.4 mmol), in dry THF (70 mL), under a nitrogen atmosphere. The reaction was stirred for 5 h then quenched by cautiously adding water (1.51 ml), followed by 15% NaOH/water (1.51 mL), followed by water (4.53 ml). A white precipitate formed which was removed by filtration. The resulting solution was treated with di-tert butyl dicarbonate (1M in THF, 37.4 mL, 37.4 mmol), and stirred for an additional 30 minutes. The reaction was stripped of solvent and purified by column chromatography (5% to 25% ethyl acetate/hexanes). Yield 8.64 g, 87%.

reactant | 2-(3-Bromo-phenyl)-2-methyl-propionitrile | BrC=1C=C(C=CC1)C(C#N)(C)C | C10H10BrN
reactant | Lithium aluminum hydride | 37.4 mmol, 1M, 37.4 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert butyl dicarbonate | 37.4 mmol, 1M, 37.4 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | [2-(3-Bromo-phenyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(C)(C)C1=CC(=CC=C1)Br)=O | C15H22BrNO2
